US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2oxo-2-[[2-(2-thienyl)ethyl]amino]ethyl]carbamate
To a solution of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan (0.401 g, 1.01 mmol) in dry ethyl acetate (6 mL) and N,N-dimethylformamide (4 mL) under nitrogen atmosphere was added 1-hydroxybenzotriazole (0.138 g, 1.02 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.199 g, 1.04 mmol). This mixture was stirred 2 hours, then triethylamine (0.18 mL, 1.3 mmol) and 2-thiopheneethaneamine hydrochloride (0.214 g, 1.30 mmol) were added. After stirring the resulting mixture an additional 18 hours, the mixture was diluted with ethyl acetate (20 mL), and washed with aqueous 1N citric acid, saturated aqueous sodium bicarbonate, and brine solutions. The organic phase was dried over MgSO4, concentrated, purified by flash chromatography (SiO4, 4×20 cm, 230-400 mesh, 67% ethyl acetate/hexane eluant), and dried for 48 hours under vacuum at 60° C. to provide 0.310 g (61%) of product; 1H NMR (CDCl3) δ 1.49-1.60 (2H, m), 1.55 (3H, s), 1.65-2.00 (12H, m), 2.88 (2H, t, J 6 Hz), 3.26 (1H, d, J 14 Hz), 3.40-3.60 (3H, m), 4.82 (1H, br s), 5.17 (1H, br s), 6.36 (1H, br s), 6.69 (1H, d, J 2 Hz), 6.85-6.90 (1H, m), 6.95 (1H, d, J 2 Hz), 7.00-7.22 (3H, m), 7.36 (1H, d, J 8 Hz), 7.58 (1H, d, J 8 Hz), 8.29 (1H, br s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.01 mmol, 0.401 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1-hydroxybenzotriazole | 1.02 mmol, 0.138 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.04 mmol, 0.199 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 1.3 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiopheneethaneamine hydrochloride | 1.30 mmol, 0.214 g | Cl.S1C(=CC=C1)CCN
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2oxo-2-[[2-(2-thienyl)ethyl]amino]ethyl]carbamate | 0.310 g, 61% | N1C=C(C2=CC=CC=C12)CC(C(NCCC=1SC=CC1)=O)(C)NC(OC1C2CC3CC(CC1C3)C2)=O | C29H35N3O3S
